US04440940
Preparation of N-(3-bromopropyl)-2-(4-tetradecenylamino)benzamide
To a slurry of 21.80 g. of 3-bromopropylamine hydrobromide in 200 ml. of glyme at 3° C. is added a solution of 23.9 g. of 2-(4-tetradecenylamino)benzoyl chloride hydrochloride in 65 ml. of glyme, concurrently with 26 ml. of triethylamine diluted to 39 ml. with 1,2-dimethoxyethane. The solution is warmed to reflux and 0.2 g. of 4-dimethylaminopyridine is added. The solution is heated for four hours and cooled overnight. The solid is removed and the mother liquor diluted with 200 ml. of water to yield a solid which is crystallized from cyclohexane and recrystallized from acetonitrile to yield the product.

reactant | 3-bromopropylamine hydrobromide | Br.BrCCCN
reactant | 2-(4-tetradecenylamino)benzoyl chloride hydrochloride | Cl.C(CCC=CCCCCCCCCC)NC1=C(C(=O)Cl)C=CC=C1
reactant | triethylamine | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
solvent | glyme | C(OC)COC | C4H10O2
product | N-(3-bromopropyl)-2-(4-tetradecenylamino)benzamide | BrCCCNC(C1=C(C=CC=C1)NCCCC=CCCCCCCCCC)=O | C24H39BrN2O
